US08664401B2
Step A) 2,5-difluoro-4-iodopyridine
n-Butyllithium (2.5 M in hexanes, 18.6 mL, 46.5 mmol) was added to a solution of diisopropylamine (6.51 mL, 46.1 mmol) in anhydrous tetrahydrofuran (85 mL) at −78° C. and stirred at this temperature for 1 hour. A solution of 2,5-difluoropyridine (5.0 g, 43 mmol) in anhydrous THF (12 mL) was added dropwise via cannula and the reaction was stirred at −78° C. for 3 hours. After this time, iodine (12.1 g, 47.8 mmol) in tetrahydrofuran (50 mL) was added dropwise via cannula to the reaction at −78° C. and stirred at this temperature for 1 hour after complete addition. Water (100 mL) was added to the reaction and the temperature was allowed to come to RT. The reaction was extracted with diethyl ether (3×100 mL). The combined organics were washed with brine (100 mL), dried (MgSO4), filtered and concentrated. The crude was purified via flash chromatography using an Analogix SF40-80 g column and an eluant of ethyl acetate in heptane (0-10%) to afford the title compound as a yellow solid (4.60 g, 44%). LC-MS m/z 242.0 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.39 (t, J=3.71 Hz, 1H) 7.96 (d, J=1.56 Hz, 1H).

reactant | n-Butyllithium | 46.5 mmol, 2.5 M, 18.6 mL | C(CCC)[Li]
reactant | diisopropylamine | 46.1 mmol, 6.51 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2,5-difluoropyridine | 43 mmol, 5.0 g | FC1=NC=C(C=C1)F | C5H3F2N
reactant | iodine | 47.8 mmol, 12.1 g | II | I2
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 2,5-difluoro-4-iodopyridine | 4.60 g, 44% | FC1=NC=C(C(=C1)I)F | C5H2F2IN
